US05538976
N-(4-Nitrophenyl)-2-phenyl-N-(5-pyrimidyl)acetamide
Starting compounds: 5-[N-(4-nitrophenyl)amino]pyrimidine and phenylacetyl chloride

reactant | 5-[N-(4-nitrophenyl)amino]pyrimidine | [N+](=O)([O-])C1=CC=C(C=C1)NC=1C=NC=NC1 | C10H8N4O2
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | N-(4-Nitrophenyl)-2-phenyl-N-(5-pyrimidyl)acetamide | [N+](=O)([O-])C1=CC=C(C=C1)N(C(CC1=CC=CC=C1)=O)C=1C=NC=NC1 | C18H14N4O3
